US04426222
N-cyanomethylcarbanilic acid-[3-(tert.-butylcarbonylamino)-phenyl]-ester
Into a solution of 13.2 g N-cyanomethylaniline in 150 ml acetonitrile is added 25.57 g chloroformic acid-[3-(tert.-butylcarbonylamino)-phenyl]-ester, then with further stirring 12.1 g N,N dimethylaniline is added dropwise and the mixture heated for an additional 15 minutes to boiling. The mixture is stirred after cooling in 1 l ice water, the substance which separates out is taken up and after drying in vacuum is recrystallized from a little acetonitrile.

reactant | N-cyanomethylaniline | 13.2 g | C(#N)CNC1=CC=CC=C1 | C8H8N2
reactant | chloroformic acid-[3-(tert.-butylcarbonylamino)-phenyl]-ester | 25.57 g | C(C)(C)(C)C(=O)NC=1C=C(C=CC1)OC(=O)Cl | C12H14ClNO3
reactant | N,N dimethylaniline | 12.1 g | CN(C1=CC=CC=C1)C | C8H11N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | N-cyanomethylcarbanilic acid-[3-(tert.-butylcarbonylamino)-phenyl]-ester | C(C)(C)(C)C(=O)NC=1C=C(C=CC1)OC(N(C1=CC=CC=C1)CC#N)=O | C20H21N3O3
